data/mechanisms/records/IMS8-EQ8.8b.json
{"mechanism_id": "IMS8-EQ8.8b", "species": [{"species_id": "methyloxirane_molecular_ion_O_ionized", "mapped_smiles": "[CH2:1]([1H:5])[C:2]1([1H:6])[O+:3][CH2:4]1", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "distonic_ring_opened_oxocarbenium", "mapped_smiles": "[CH2:1]([1H:5])[C:2]([1H:6])=[O+:3][CH2:4]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "methyl_vinyl_ether_radical_cation", "mapped_smiles": "[CH2:1]=[C:2]([1H:6])[O+:3][CH2:4][1H:5]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "acetyl_cation_mz43", "mapped_smiles": "[CH2:1]([1H:6])[C:2]#[O+:3]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "methyl_radical", "mapped_smiles": "[CH2:4][1H:5]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["methyloxirane_molecular_ion_O_ionized"]}, {"state_id": "state_distonic", "species_ids": ["distonic_ring_opened_oxocarbenium"]}, {"state_id": "state_enol_ether", "species_ids": ["methyl_vinyl_ether_radical_cation"]}, {"state_id": "state_products", "species_ids": ["acetyl_cation_mz43", "methyl_radical"]}], "steps": [{"step_id": "step_ring_opening", "from_state": "state_precursor", "to_state": "state_distonic", "step_class": "ring_opening", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [3]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 4]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 4]}, "target": {"type": "atom", "atom_maps": [4]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_rH_to_enol_ether", "from_state": "state_distonic", "to_state": "state_enol_ether", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [4]}, "target": {"type": "bond", "atom_maps": [4, 5]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 5]}, "target": {"type": "bond", "atom_maps": [4, 5]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 5]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "atom", "atom_maps": [3]}, "electron_count": 1}], "reaction_smirks": null, "reversible": true}, {"step_id": "step_rH_methyl_loss", "from_state": "state_enol_ether", "to_state": "state_products", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "lone_pair", "atom_maps": [3]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "atom", "atom_maps": [4]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "atom", "atom_maps": [3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 6]}, "target": {"type": "bond", "atom_maps": [1, 6]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 6]}, "target": {"type": "bond", "atom_maps": [1, 6]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_ring_opening", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_ring_opening", "support_type": "textbook_proposed", "locator": {"page": 145, "equation": "8.8", "figure": null, "panel": null, "section": "8.2 Product stability (hidden rearrangements)"}, "confidence": 0.85, "curator_note": "PRODUCTIVE PATH, step 1 (the main rightward arrow of eq 8.8). Ionized methyloxirane (n-ionized at oxygen, O+. localized per convention B) opens its ring: the O radical drives cleavage of the epoxide C-C bond (map 2 - map 4) to form the ring-opened distonic oxocarbenium CH3-CH=O(+)-CH2. (a primary carbon radical, map 4). This is a radical-site (alpha-type) cleavage: the bond broken (C2-C4) is incident to C2, the same atom on which the new C2=O3 pi bond forms. ARC COUNT: the book draws 3 arcs on the ring structure -- move <1> = O odd electron (map 3) into the forming C2=O3 pi bond; move <2> = one C2-C4 sigma electron into that pi bond; move <3> = the other C2-C4 electron onto the terminal carbon (map 4). All three fishhooks are drawn. Same nominal mass (m/z 58) as the precursor -- an isomerization, not detected as a separate peak."}, {"evidence_id": "evidence_step_rH_to_enol_ether", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rH_to_enol_ether", "support_type": "textbook_proposed", "locator": {"page": 145, "equation": "8.8", "figure": null, "panel": null, "section": "8.2 Product stability (hidden rearrangements)"}, "confidence": 0.8, "curator_note": "PRODUCTIVE PATH, step 2 (the reversible 'rH' equilibrium arrow, drawn as two half-arrows). The primary carbon radical of the distonic ion (map 4) abstracts a gamma-H (map 5) from the methyl group (map 1); coupled to this the C1=C2 pi bond forms and the C2=O3 pi bond opens, relocating the radical onto oxygen to give the more stable methyl vinyl ether (methoxyethylene) radical cation CH2=CH-O(+.)-CH3. ARC COUNT: the book draws 3 arcs in the middle structure -- a large arc carrying the H (map 5) from carbon 1 over to the radical carbon (map 4), a fishhook forming C1=C2, and an arc opening C2=O3 onto oxygen. For complete electron balance this is encoded as 5 fishhooks: moves <1,2> build the new C4-H5 bond (C4 odd electron + one C1-H5 electron), move <3> routes the other C1-H5 electron into the new C1=C2 pi bond, move <4> routes one C2=O3 pi electron into C1=C2, and move <5> puts the other C2=O3 pi electron onto oxygen as the new radical. Moves <3> (the second half of the H-transfer) and <4> are the parts condensed into the drawn arcs; no arc is fabricated. Reversible (drawn with a two-way arrow)."}, {"evidence_id": "evidence_step_rH_methyl_loss", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rH_methyl_loss", "support_type": "textbook_proposed", "locator": {"page": 145, "equation": "8.8", "figure": null, "panel": null, "section": "8.2 Product stability (hidden rearrangements)"}, "confidence": 0.8, "curator_note": "PRODUCTIVE PATH, step 3 (the downward 'rH' arrow from the enol-ether ion). A second hydrogen rearrangement: the vinyl H (map 6) shifts from C2 to C1 while the C1=C2 pi bond and an oxygen lone pair build the C2#O3 triple bond and the O3-CH3 (map 4) bond homolyzes, expelling a methyl radical (map 4) and giving the very stable acetyl (acylium) cation CH3-C#O(+), m/z 43 (35% of the 70-eV spectrum; loss of methyl). ARC COUNT: the book draws 3 arcs on the enol-ether structure -- one in the H/C=C region (left), one in the C-O region (centre), and one from oxygen out to CH3 (right, the O-CH3 homolysis expelling .CH3). For complete electron balance this is encoded as 7 arrows: moves <1,2> shift the C1=C2 pi into the C2-O3 bond (first new pi of the triple bond), move <3> is the oxygen lone pair (a full 2-electron arrow) forming the second new pi, moves <4,5> homolyze O3-C4 (one electron onto the departing methyl radical, one back onto oxygen to pair its radical into a lone pair), and moves <6,7> carry H6 from C2 to C1. The three printed arcs are the drawn subset; the remaining arrows (lone-pair pi donation and the completion of the H-transfer/homolysis) are the implicit balance, not fabricated arcs."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 58.0413, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_43_acetyl", "species_id": "acetyl_cation_mz43", "step_id": "step_rH_methyl_loss", "observed_mz": 43.0178, "relative_intensity": 0.35, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.85}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-26T00:00:00Z", "modified_at": "2026-07-26T00:00:00Z"}}
